US07872014B2
Methyl 3-fluoro-4-(methyloxy)-5-[(phenylmethyl)oxy]benzoate (3.54 g, 12.2 mmol.) was taken into anhydrous THF under a nitrogen atmosphere and the resulting solution was cooled to 0° C. A solution of lithium aluminum hydride (1.0M in THF, 20 mL) was slowly added and the solution was allowed to stir an additional 30 minutes at 0° C. Ethyl acetate (10 mL) was then slowly added followed by slow addition of 50% aqueous sodium hydroxide in portions until a granular precipitate was formed. Addition of anhydrous magnesium sulfate followed by filtration and washing the solid with ethyl ether then concentration of the combined organic layers gave an oily residue. Purification by silica gel flash chromatography using 2:1 hexanes:ethyl acetate as eluent provided {3-fluoro-4-(methyloxy)-5-[(phenylmethyl)oxy]phenyl}methanol (2.69 g, 84% yield) as a colorless oil after concentration of the pure fractions and drying in vacuo. GCMS for C15H15O3F: 262 (M+).

reactant | Methyl 3-fluoro-4-(methyloxy)-5-[(phenylmethyl)oxy]benzoate | 12.2 mmol, 3.54 g | FC=1C=C(C(=O)OC)C=C(C1OC)OCC1=CC=CC=C1 | C16H15FO4
reactant | lithium aluminum hydride | 1.0M, 20 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | {3-fluoro-4-(methyloxy)-5-[(phenylmethyl)oxy]phenyl}methanol | 2.69 g, 84% yield | FC=1C=C(C=C(C1OC)OCC1=CC=CC=C1)CO | C15H15FO3
